2163-09-12 17:49:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M COPD, TBM, y-stent in place and longstanding problem with [**Name2 (NI) **],
   congestion, dyspnea. His respiratory status has been worsening on a
   subacute basis. Presented today because of worsening SOB and somnolence
   for bronch.
   During bronch, secretions seen throughout right. Post-bronch
   complicated by somnolence, hypoxemia and hypoventialtion. He was put on
   higher O2 and improved.
   Plan is for stent replacement in 2 days in OR.
   24 Hour Events:
                                History obtained from housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   COPD
   TBM - s/p Y-stent
   RUL resection NSCLCa.
   recurrent NSCLCa. - s/p CK, recent concerning PET/CT for progressive
   disease in RLL and LNs
   active smoker
   OSA - untreated
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-12**] 05:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 105 (103 - 105) bpm
   BP: 141/59(77) {141/59(77) - 141/59(77)} mmHg
   RR: 28 (22 - 28) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87% 3L NC
   ABG: ////
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   Resp distress post bronch - status has been worsening over past number
   of weeks. Has a number of possible explanations including COPD,
   infection, progressive TBM and cancer progression. Will treat COPD
   flare with steroids, bronchodilators, antibiotics. Check CXR. BIPAP
   overnight. Stent replacement per IP.
   Lung cancer - does not appear that there are treatment options.
   Continue supportive care.
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2163-09-13 07:28:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 EKG - At [**2163-9-12**] 05:36 PM
 NON-INVASIVE VENTILATION - START [**2163-9-12**] 06:08 PM
   - admitted yesterday afternoon
   - attempted Bipap but pt only tolerated for a few hours and then slept
   with 3 L NC instead
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-13**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 87 (79 - 113) bpm
   BP: 88/40(53) {88/40(53) - 141/79(93)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    545 mL
                  PO:
                                                                    545 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    780 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/62/69/39/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   659 K/uL
   9.4 g/dL
   148 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   11 mg/dL
   90 mEq/L
   133 mEq/L
   32.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
   WBC
   20.8
   21.0
   Hct
   31.9
   32.9
   Plt
   614
   659
   Cr
   0.5
   0.5
   TCO2
   43
   Glucose
   93
   148
   Other labs: Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife treatment in
   [**2158**], s/p flex bronchoscopy, now admitted to MICU for COPD exacerbation
   and closer respiratory monitoring (needing bipap)
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture
   - solumedrol 60mg IV bid
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production
   -  consider retrying BIPAP if pt agreeable
   - continue Mucomyst, Mucinex, Advair
   .
   # Leukocytosis:
   - add on diff
   - check UA/Ucx and blood cx for further evaluation
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP. Now
   improved. Reck ABG if worsening somnolence
   - BiPAP
   - ABGs
   .
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on Wednesday to exchange stent and debridement
   - NPO past M/N
   .
   # Squamous cell CA: Rad onc Dr [**First Name (STitle) 6000**]
   - f/u Dr. [**First Name (STitle) 6000**] as outpatient
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO after MN for OR
   # PPX: omeprazole (home), heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient). If pt requiring aggressive life
   saving measures x 3 days, would prefer to withdraw care.
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2163-9-13**] 15:19 ------

2163-09-13 09:50:00 Physician Attending Progress Note
Chief Complaint: Somnolence and hypoxia s/p bronchoscopy.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted. Stable overnight. Declined bipap after 30minute trial.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-13**] 04:30 AM
   Other medications:
   azithromycin , methylprednisonlone 125 iv q8, albuterol atroven,
   advair, fentanyl patch, HCTZ, synthroid, MVi, simvastatin, quinipril,
   naproxen, lopressor, mucinex.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-13**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 95 (79 - 113) bpm
   BP: 117/57(69) {88/40(53) - 141/79(93)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    545 mL
                  PO:
                                                                    545 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    780 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 90%
   ABG: 7.43/62/69/39/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 69
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   659 K/uL
   148 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   11 mg/dL
   90 mEq/L
   133 mEq/L
   32.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
   WBC
   20.8
   21.0
   Hct
   31.9
   32.9
   Plt
   614
   659
   Cr
   0.5
   0.5
   TCO2
   43
   Glucose
   93
   148
   Other labs: Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR Rt costophrenic area iwth thickening. no consolidation
   Microbiology: Sputum culture pending
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA):
   s/p Y stent, plan for OR for replacement of stent in am. NPO tonight.
 COPD/OSA:  patient intolerant of Bipap. stabilized with clearing of
   sedation. currently ABG much improved. continue steroids at lower dose
   x 3 days 60mg solumdedrol [**Hospital1 **].
 NSCLC: likely recurrence in RLL, options appear to be limited. [**Month (only) 51**] be
   a candidate for paliative chemotherapy.
 Leukocytosis: ? related to steroids, vs malignancy and leukamoid
   reaction. will pan culture, no infiltrate on CXR, but significant
   secretions per patient will follow up sputum culture to r/o other more
   resistant bacterial pathogens. Will contineu azithro for COPD
   exacerbation.
   ICU Care
   Nutrition: po diet.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU

2163-09-14 07:42:00 Physician Resident Progress Note
ICU RESIDENT PROGRESS NOTE
   24 Hour Events:
   [**9-13**]
   Decreased steroids to 60 IV bid
   UA negative
   Worsening hyponatremia. LOS negative. Gave trial of NS IVFs. Repeat
   lytes in AM improved with NS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 03:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 92 (75 - 102) bpm
   BP: 134/77(92) {91/31(45) - 139/77(92)} mmHg
   RR: 19 (11 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    638 mL
   PO:
                                                                  1,120 mL
             TF:
   IVF:
   638 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,100 mL
   Urine:
                                                                  1,525 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -405 mL
                                                                   -462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   660 K/uL
   9.2 g/dL
   121 mg/dL
   0.6 mg/dL
   38 mEq/L
   5.1 mEq/L
   15 mg/dL
   91 mEq/L
   134 mEq/L
   30.9 %
   25.1 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
                             [**2163-9-13**]  03:29 PM
                             [**2163-9-13**]  05:44 PM
                             [**2163-9-14**]  03:25 AM
   WBC
   20.8
   21.0
   18.9
   25.1
   Hct
   31.9
   32.9
   29.5
   30.9
   Plt
   [**Telephone/Fax (3) 10046**]60
   Cr
   0.5
   0.5
   0.7
   0.7
   0.6
   TCO2
   43
   Glucose
   93
   148
   88
   121
   Other labs: Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
[**2163-9-13**] 8:02 am SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2163-9-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife for
   recurrence, s/p flex bronchoscopy, now admitted to MICU for COPD
   exacerbation and closer respiratory monitoring.
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture, no growth to date
   - solumedrol 60 IV daily
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production, on
   day [**3-3**]
   - continue Mucomyst, Mucinex, Advair
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on [**9-14**] for exchange stent and debridement
   - NPO for procedure
   .
   # Leukocytosis: likely secondary to IV steriods, but could have
   possible infection.
   - monitor WBC
   - f/u cx
   - CIS
   - if starts to have diarrhea will check c. diff, since been on abx
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP. Now
   improved.
   - Recheck ABG if worsening somnolence
   .
   # Squamous cell CA: Rad onc Dr [**First Name (STitle) 6000**]
   - f/u Dr. [**First Name (STitle) 6000**] as outpatient
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO for OR
   # PPX: omeprazole (home), heparin SQ (hold today for OR), bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient). If pt requiring aggressive life
   saving measures x 3 days, would prefer to withdraw care.
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: NPO for procedure today, then advance diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   20 Gauge - [**2163-9-14**] 03:38 AM
   Prophylaxis:
   DVT: hep sq (hold for procedure)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: procedure today, then if stable transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2163-9-14**] 14:25 ------

2163-09-14 11:08:00 Physician Attending Progress Note
Chief Complaint: Hypoxia, hypercarbia with TBM and stent obstruction.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night awaiting OR for stent replacement today.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 03:33 AM
   Other medications:
   azithromycin, albuterol nebs, mucomyst, advair, HCTZ, synthroid, asa,
   simvastatin, quinipril, omeprazole, naproxen, dextromethorphan,
   methylprednisolone.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-14**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 93 (73 - 98) bpm
   BP: 123/56(70) {91/31(45) - 139/77(92)} mmHg
   RR: 17 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    972 mL
   PO:
                                                                  1,120 mL
             TF:
   IVF:
   972 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  2,250 mL
   Urine:
                                                                  1,525 mL
                                                                  2,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -405 mL
                                                                 -1,278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3L
   SpO2: 99%
   ABG: ///38/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), difficult to
   assess heart sounds clearly due to loud rhonchi
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   660 K/uL
   121 mg/dL
   0.6 mg/dL
   38 mEq/L
   5.1 mEq/L
   15 mg/dL
   91 mEq/L
   134 mEq/L
   30.9 %
   25.1 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
                             [**2163-9-13**]  03:29 PM
                             [**2163-9-13**]  05:44 PM
                             [**2163-9-14**]  03:25 AM
   WBC
   20.8
   21.0
   18.9
   25.1
   Hct
   31.9
   32.9
   29.5
   30.9
   Plt
   [**Telephone/Fax (3) 10046**]60
   Cr
   0.5
   0.5
   0.7
   0.7
   0.6
   TCO2
   43
   Glucose
   93
   148
   88
   121
   Other labs: Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Microbiology: sputum multiple organisms c/w oral flora
   Assessment and Plan
 LEUKOCYTOSIS:
   cultures are negative to date, on solumedrol. Continue to monitor.
 ELECTROLYTE & FLUID DISORDER, OTHER
   Hyperkalemia: trendign down. continue to monitor.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:
   wean steroids to 30 of columedrol [**Hospital1 **] x1 more day. Contineu azithro and
   nebs.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   For Y stent exchange and debridement in OR today.
   ICU Care
   Nutrition: NPO for procedure.
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-9-14**] 03:38 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes